US07423030B2
6.3. 1-Chloro-7-methoxy-4-(5-methylthiophen-2-yl)phthalazine
This compound is obtained according to the procedure described in 1.3. by reacting 7-methoxy-4-(5-methylthiophen-2-yl)-2H-phthalazin-1-one with phosphoryl chloride.

reactant | 7-methoxy-4-(5-methylthiophen-2-yl)-2H-phthalazin-1-one | COC1=CC=C2C(=NNC(C2=C1)=O)C=1SC(=CC1)C | C14H12N2O2S
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-7-methoxy-4-(5-methylthiophen-2-yl)phthalazine | ClC1=NN=C(C2=CC=C(C=C12)OC)C=1SC(=CC1)C | C14H11ClN2OS
